US08455646B2
Preparation of (4-methoxy-phenyl)-phenylamino-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C93)
(4-Methoxy-phenyl)-phenylamino-acetic acid hydrochloride (I92) (300 mg, 1.02 mmol), DCC (253 mg, 1.23 mmol), and HOBT (188 mg, 1.23 mmol) are dissolved in THF (10 mL). DIPEA (0.36 mL, 2.04 mmol) and (R)-quinuclidin-3-ol (130 mg, 1.02 mmol) are added. The mixture is stirred ad RT for 16 hours. Then DCC (25.3 mg, 0.12 mmol), HOBT (18.8 mg, 0.12 mmol), DIPEA (36 uL, 0.204 mmol) and (R)-quinuclidin-3-ol (13.0 mg, 0.10 mmol) are added again and reaction is stirred for additional 32 hours. THF is evaporated and the residue is dissolved in EtOAc and washed with sat. NaHCO3, H2O and brine. The organic layer is dried (Na2SO4), filtered and evaporated. The crude residue is purified by flash chromatography (DCM/MeOH=97/3 to 92/8) to obtain the title compound as a yellow solid (90 mg, 24% yield, mixture of diastereoisomers).

reactant | (4-Methoxy-phenyl)-phenylamino-acetic acid hydrochloride | 1.02 mmol, 300 mg | Cl.COC1=CC=C(C=C1)C(C(=O)O)NC1=CC=CC=C1
reactant | DCC | 1.23 mmol, 253 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 1.23 mmol, 188 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 2.04 mmol, 0.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-quinuclidin-3-ol | 1.02 mmol, 130 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | DCC | 0.12 mmol, 25.3 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 0.12 mmol, 18.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.204 mmol, 36 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-quinuclidin-3-ol | 0.10 mmol, 13.0 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4-methoxy-phenyl)-phenylamino-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 90 mg, 24% yield | N12C[C@@H](C(CC1)CC2)OC(C(NC2=CC=CC=C2)C2=CC=C(C=C2)OC)=O | C22H26N2O3
